US06218576B1
Synthesis of 3,4-dimethylphenyl-3-methylphenylamine (I-2)
In a 500-ml four-necked flask were charged 56 ml of 1,2,3,4-tetrahydronaphthalene (boiling point: 207° C.) as a solvent and 45.0 g (0.42 mol) of m-toluidine, followed by the addition of 25.6 g (0.23 mol) of anhydrous calcium chloride and 30.8 g (0.23 mol) of anhydrous aluminum chloride under stirring. After stirring at an internal temperature of 100 to 120° C. for 30 minutes under a nitrogen atmosphere, the reaction mixture was added with 50.9 g (0.42 mol) of 3,4-xylidine. The resulting mixture was reacted at an internal temperature of 210 to 220° C. for 3 hours. After cooling, the reaction mixture was added with 126 ml of toluene, followed by charging in 160 g of ice water. The resulting mixture was stirred and then, allowed to stand, whereby a water layer was separated out. The organic layer was washed successively with 150 ml of a 5% aqueous solution of hydrochloric acid, 100 ml of a 5% aqueous solution of sodium bicarbonate and 100 ml of water. From the organic solvent, the distillate at 134 to 135° C. and a vacuum degree of 0.4 to 0.5 Torr was collected, whereby 37.9 g (yield: 42.7%) of the title compound was obtained as a slightly yellow oil. As a result of HPLC. analysis (column: YMC-A-312, detection UV: 280 nm, flow rate: 1.0 ml/min, eluent: acetonitrile/water=8/2), the compound was found to have a purity of 99.3%.

reactant | m-toluidine | 0.42 mol, 45.0 g | NC1=CC(=CC=C1)C | C7H9N
reactant | calcium chloride | 0.23 mol, 25.6 g | [Cl-].[Ca+2].[Cl-]
reactant | aluminum chloride | 0.23 mol, 30.8 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,4-xylidine | 0.42 mol, 50.9 g | NC1=CC(=C(C=C1)C)C | C8H11N
solvent | 1,2,3,4-tetrahydronaphthalene | 56 ml | C1CCCC2=CC=CC=C12 | C10H12
solvent | toluene | 126 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-dimethylphenyl-3-methylphenylamine | 37.9 g, yield: 42.7% | CC=1C=C(C=CC1C)NC1=CC(=CC=C1)C | C15H17N
